US05852017
d) 7-Amino-1-ethyl-6-nitro-2,3(1H,4H)-quinoxalinedione
5.2 g (21 mmol) of 7-acetamido-1-ethyl-2,3(1H,4H)-quinoxalinedione were dissolved in 75 ml of concentrated sulfuric acid and, at 0°-5° C., 2 g (23 mmol,) of sodium nitrate were added. The mixture was stirred at 0°-5° C. for 2 h and then poured into ice-water and stirred at room temperature for 16 h. The mixture was then neutralized with dilute sodium hydroxide solution and sodium bicarbonate solution and concentrated under reduced pressure. The residue was extracted with dimethylformamide and then the organic phase was concentrated anew. The residue was purified on silica gel (mobile phase: toluene/acetone/acetic acid=10:10:1) to yield 1.2 g (23%) of the product.

reactant | 7-acetamido-1-ethyl-2,3(1H,4H)-quinoxalinedione | 21 mmol, 5.2 g | C(C)(=O)NC1=CC=C2NC(C(N(C2=C1)CC)=O)=O | C12H13N3O3
reactant | sodium nitrate | 23 mmol, 2 g | [N+](=O)([O-])[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | sulfuric acid | 75 ml | S(O)(O)(=O)=O | H2O4S
product | 7-Amino-1-ethyl-6-nitro-2,3(1H,4H)-quinoxalinedione | 1.2 g, 23% | NC1=C(C=C2NC(C(N(C2=C1)CC)=O)=O)[N+](=O)[O-] | C10H10N4O4
